US06528504B2
5,11-Dihydro-5-[2-(4-methylphenylsulfonyl)oxyethyl]dibenzo [b,e][1,4]oxazepine (650 mg, 1.65 mmol), N-methyl-4-methoxyphenethylamine (290 mg, 1.76 mmol), sodium carbonate (195 mg, 1.84 mmol) and sodium iodide (25 mg, 0.17 mmol) were added to acetonitrile (20 ml), and they were heated under reflux at 90° C. for 6 hours. The solvent was evaporated under reduced pressure. The obtained residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography. The product was eluted with ethyl acetate and hexane (6:1) and then with the same solvents (1:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain 5,11-dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (423 mg, 66%).

reactant | 5,11-Dihydro-5-[2-(4-methylphenylsulfonyl)oxyethyl]dibenzo [b,e][1,4]oxazepine | 1.65 mmol, 650 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C22H21NO4S
reactant | N-methyl-4-methoxyphenethylamine | 1.76 mmol, 290 mg | CNCCC1=CC=C(C=C1)OC | C10H15NO
reactant | sodium carbonate | 1.84 mmol, 195 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.17 mmol, 25 mg | [I-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5,11-dihydro-5-[2-[N-(4-methoxyphenethyl)-N-methylamino]ethyl]dibenzo[b,e][1,4]oxazepine | COC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C25H28N2O2
